US06392059B1
similarly to Referential example 1, 532.4 mg(2.09 mmol) of (1R,3R,3aS,4S,4aR,8aS,9aR)-4-hydroxymethyl-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan were mesylated with 486.0 μl(3 equivalents) of methanesulfonyl chloride, 1458.6 μl (5 equivalents) of triethylamine and 23.5 mg(0.1 equivalent) of 4-(dimethylamino)pyridine to obtain 687.5 mg of yellow oily O-mesyl form. Then, this was converted to phenylthio form with 348.1 mg(1.5 equivalents) of potassium t-butoxide and 318,5 μl (1.5 equivalents) of thiophenol and further oxidized with 1290.0 mg(2.5 equivalents) of m-chloroperbenzoic acid(70%) and 879.2 mg(5 equivalents) of sodium hydrogencarbonate to obtain 311.2 mg of (1R,3R,3aR,4S,4aR,8aS,9aR)-1-methoxy-3-methyl-4-(phenylsulfonyl)methyl-dodecahydronaphtho[2,3-c]furan(yield after 3 processes 39%).

reactant | (1R,3R,3aS,4S,4aR,8aS,9aR)-4-hydroxymethyl-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan | 2.09 mmol, 532.4 mg | OC[C@H]1[C@@H]2CCCC[C@H]2C[C@H]2[C@@H](O[C@@H]([C@H]21)C)OC | C15H26O3
reactant | methanesulfonyl chloride | 486.0 μl, 3 equivalents | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1458.6 μl, 5 equivalents | C(C)N(CC)CC | C6H15N
reactant | potassium t-butoxide | 348.1 mg, 1.5 equivalents | CC(C)([O-])C.[K+]
reactant | thiophenol | 318,5 μl, 1.5 equivalents | C1(=CC=CC=C1)S | C6H6S
reactant | m-chloroperbenzoic acid | 1290.0 mg, 2.5 equivalents | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | 879.2 mg, 5 equivalents | C(O)([O-])=O.[Na+]
catalyst | 4-(dimethylamino)pyridine | 23.5 mg, 0.1 equivalent | CN(C1=CC=NC=C1)C | C7H10N2
product | (1R,3R,3aR,4S,4aR,8aS,9aR)-1-methoxy-3-methyl-4-(phenylsulfonyl)methyl-dodecahydronaphtho[2,3-c]furan | 311.2 mg, 39% | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1C[C@@H]1CCCC[C@H]1[C@@H]2CS(=O)(=O)C2=CC=CC=C2)C | C21H30O4S
